US07329659B2
N-(4-tert-Butylphenyl)-6-(3-methyl-2-pyridinyl)-1-phthalazinamine hydrochloride
1-Chloro-6-(3-methyl-2-pyridinyl)phthalazine (200 mg; 0.78 mmol) and 4-tert-butylaniline (117 mg, 0.125 mL; 0.78 mmol) in 1,4-dioxane were heated at reflux for 2 h. After allowing to cool down to room temperature the precipitate was collected by filtration washed with 1,4-dioxane and dried to give the title compound (135 mg) (43%). 1H NMR (500 MHz, DMSO-d6) δ: 1.35 (9H, s), 7.48 (1H, dd, J 4.9 and 7.6 Hz), 7.55-7.61 (4H, m), 7.90 (1H, dd, J 0.8 and 7.8 Hz), 8.47 (1H, dd, J 1.6 and 8.6 Hz), 8.52 (1H, d, J 2.0 Hz), 8.63 (1H, dd, J 1.2 and 4.7 Hz), 9.09 (1H, d, J 8.6), 9.32 (1H, s); MS (ES M+1) 369.

reactant | 1-Chloro-6-(3-methyl-2-pyridinyl)phthalazine | 0.78 mmol, 200 mg | ClC1=NN=CC2=CC(=CC=C12)C1=NC=CC=C1C | C14H10ClN3
reactant | 4-tert-butylaniline | 0.78 mmol, 0.125 mL, 117 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(4-tert-Butylphenyl)-6-(3-methyl-2-pyridinyl)-1-phthalazinamine hydrochloride | 135 mg, 43% | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC1=NN=CC2=CC(=CC=C12)C1=NC=CC=C1C | InChI=1S/C24H24N4.ClH/c1-16-6-5-13-25-22(16)17-7-12-21-18(14-17)15-26-28-23(21)27-20-10-8-19(9-11-20)24(2,3)4;/h5-15H,1-4H3,(H,27,28);1H
